US07442791B2
100 mg (4 mmol, 1.1 eq) of sodium were reacted in 2 mL of MeOH. Then 1.33 g (3.5 mmol) of trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexane carboxylic acid methyl ester dissolved in 3 mL of dry DMF were added, followed by 0.44 mL (7 mmol, 2 eq) of CH3I. The mixture was stirred at RT for 2 h, then poured into ice-water and extracted with 3 portions of 15 mL of CH2Cl2. The combined organic phases were washed with H2O and brine, dried over anhydrous Na2SO4 and evaporated, leaving 1.34 g (97%) of trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexane-carboxylic acid methyl ester as white solid, MS: 411 (M+NH4+).

reactant | sodium | 4 mmol, 100 mg, 1.1 eq | [Na] | Na
reactant | trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexane carboxylic acid methyl ester | 3.5 mmol, 1.33 g | COC(=O)[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C16H20F3NO4S
reactant | CH3I | 7 mmol, 0.44 mL, 2 eq | CI | CH3I
solvent | MeOH | 2 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexane-carboxylic acid methyl ester | 1.34 g, 97% | COC(=O)[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C17H22F3NO4S
